US06436929B1
5-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-furan-2-carbonitrile was prepared, according to the procedure of Example 5 from 2-bromo-5-cyanofuran (1.0 g, 5.6 mmol) (J. Med. Chem. (1997), 40(23), 3804-3819) and (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid (1.8 g, 8.18 mmol), as a white solid (0.39 g, 1.45 mmol, 17%): mp 257-260° C.; 1H-NMR (DMSO-d6) δ10.48 (s, 1H), 7.73-7.70 (m, 3H), 7.19 (d, 1H, J=3.8 Hz), 6.98 (d, 1H, J=8.9 Hz), 1.66 (s, 6H); MS ((+)−APCI) m/z=269 (M+H)+.

reactant | 2-bromo-5-cyanofuran | 5.6 mmol, 1.0 g | BrC=1OC(=CC1)C#N | C5H2BrNO
reactant | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | 8.18 mmol, 1.8 g | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
product | 5-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-furan-2-carbonitrile | CC1(C2=C(NC(O1)=O)C=CC(=C2)C2=CC=C(O2)C#N)C | C15H12N2O3
